US03947445
Ethyl cis-5-(N-benzylcarbamyl)-1-methylpyrrolidine-2-carboxylate
A solution of diethyl cis-1-methylpyrrolidine-2,5-dicarboxylate (10.95 g, 0.0478 mole) and benzylamine (5.2 ml, 0.048 mole) in 30 ml xylene was refluxed 72 hours at 140°C. After evaporation of the xylene in vacuo, the oily residue was fractionated on a Vigreux column. After an initial fraction of the starting compound (0.49 g), the product was collected: 7.11 g (boiling point 160°C, 0.25 mm).

reactant | diethyl cis-1-methylpyrrolidine-2,5-dicarboxylate | 0.0478 mole, 10.95 g | CN1[C@H](CC[C@H]1C(=O)OCC)C(=O)OCC | C11H19NO4
reactant | benzylamine | 0.048 mole, 5.2 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl cis-5-(N-benzylcarbamyl)-1-methylpyrrolidine-2-carboxylate | C(C1=CC=CC=C1)NC(=O)[C@@H]1CC[C@@H](N1C)C(=O)OCC | C16H22N2O3
